US05519034
A mixture of N-[2-(2-methoxy-5-biphenylyl)ethyl]-1-(2-chlorophenyl)cyclobutane carboxamide (12.5 g, prepared as described in Example E30), phosphorus oxychloride (25 ml) and acetonitrile (150 ml) was heated under reflux for 6 hours. The solvent was removed by distillation and the residue added to a mixture of ice and water. The mixture was extracted with dichloromethane to yield a solid which was recrystallised from propan-2-ol to give 1-[1-(2-chlorophenyl)cyclobutyl]-7-methoxy-6-phenyl-3,4-dihydroisoquinoline, m.p. 149°-152° C.

reactant | N-[2-(2-methoxy-5-biphenylyl)ethyl]-1-(2-chlorophenyl)cyclobutane carboxamide | 12.5 g | COC1=C(C=C(C=C1)CCNC(=O)C1(CCC1)C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C26H26ClNO2
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-[1-(2-chlorophenyl)cyclobutyl]-7-methoxy-6-phenyl-3,4-dihydroisoquinoline | ClC1=C(C=CC=C1)C1(CCC1)C1=NCCC2=CC(=C(C=C12)OC)C1=CC=CC=C1 | C26H24ClNO
